US04649160
3.15 g of 4-chlorophenethyl alcohol were reacted with 2.2 g of chloroacetic acid in a manner analogous to that described in Example 1(a) to give 4.55 g (91%) of 2-(4-chlorophenyl)ethoxyacetic acid of melting point 75°-77° C. (from ethyl acetate/hexane).

reactant | 4-chlorophenethyl alcohol | 3.15 g | ClC1=CC=C(CCO)C=C1 | C8H9ClO
reactant | chloroacetic acid | 2.2 g | ClCC(=O)O | C2H3ClO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(4-chlorophenyl)ethoxyacetic acid | 4.55 g, 91% | ClC1=CC=C(C=C1)CCOCC(=O)O | C10H11ClO3
